US07608627B2
To a suspension of potassium ethoxide (2.21 g, 26.3 mmol) in diethyl ether (20 mL) was added diethyl oxalate (3.57 mL, 26.3 mmol) under a nitrogen atmosphere. The reaction exhibited a slight exotherm and the reaction mixture was stirred for 20 min. The heterogeneous mixture became a homogeneous orange solution and then became a heterogeneous thick slurry and the stirring was ceased. In a separate container 2-(dibenzylamino)-5-nitro-4-methylpyridine (8.76 g, 26.3 mmol) was diluted with diethyl ether (14.3 mL) to give a suspension. The suspension was added to the slurry obtained above. The mixture was manually stirred using a glass rod, then sonicated for 20 min resulting in a thick black heterogeneous solution. The reaction mixture was allowed to stand under a nitrogen atmosphere overnight. The resulting solid was collected by filtration and rinsed with diethyl ether to give potassium (1Z)-1-[2-(dibenzylamino)-5-nitropyridin-4-yl]-3-ethoxy-3-oxoprop-1-en-2-olate (9.5 g, 76%) as a deep red solid: 1H NMR (300 MHz, CD3OD) δ1.17 (3H, t, J=7.0 Hz), 3.58 (2H, q, J=6.9 Hz), 4.82 (4H, s), 7.22-7.32 (11H, m), 8.74 (1H, s), 8.80 (1H, s).

reactant | potassium ethoxide | 26.3 mmol, 2.21 g | [O-]CC.[K+]
reactant | diethyl oxalate | 26.3 mmol, 3.57 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-(dibenzylamino)-5-nitro-4-methylpyridine | 26.3 mmol, 8.76 g | C(C1=CC=CC=C1)N(C1=NC=C(C(=C1)C)[N+](=O)[O-])CC1=CC=CC=C1 | C20H19N3O2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 14.3 mL | C(C)OCC | C4H10O
product | potassium (1Z)-1-[2-(dibenzylamino)-5-nitropyridin-4-yl]-3-ethoxy-3-oxoprop-1-en-2-olate | 9.5 g, 76% | C(C1=CC=CC=C1)N(C1=NC=C(C(=C1)\C=C(\C(=O)OCC)/[O-])[N+](=O)[O-])CC1=CC=CC=C1.[K+] | InChI=1S/C24H23N3O5.K/c1-2-32-24(29)22(28)13-20-14-23(25-15-21(20)27(30)31)26(16-18-9-5-3-6-10-18)17-19-11-7-4-8-12-19;/h3-15,28H,2,16-17H2,1H3;/q;+1/p-1/b22-13-;
